US06841671B2
Following the procedure for pyrimidinetrione formation outlined in Example 1, reaction of 5-oxo-1-[6-(4-pyrazol-1-ylmethyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.2 g, 0.4 mmol) with urea (0.074 g, 1.2 mmol) in 1.2 mL of 1M sodium ethoxide in ethanol afforded 6 mg of 1-[6-(4-Pyrazol-1-ylmethyl-phenoxy)-pyridin-3-yl]-1,7,9-triaza-spiro[4.5]decane-2,6,8,10-tetraone as a colorless solid. 1H NMR (CD3OD, 500 MHz): 7.99 (d, 1H, J=2.5 Hz), 7.72 (m, 2H), 7.53 (d, 1H, J=2.5 Hz), 7.29 (d, 2H, J=8.5 Hz 7.10 (d, 2H, J=8.5 Hz), 6.97 (d, 1H, J=8.5 Hz), 6.35 (t, 1H, J=2.0 Hz), 5.38 (s, 2H), 2.75 (m, 2H), 2.65 (m, 2H) ppm. MS (APCl, m/z): 447.2 [M+H]+.

reactant | pyrimidinetrione | N=1C(NC(C(C1)=O)=O)=O | C4H2N2O3
reactant | 5-oxo-1-[6-(4-pyrazol-1-ylmethyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.4 mmol, 0.2 g | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)CN1N=CC=C1)C(=O)OCC | C25H26N4O6
reactant | urea | 1.2 mmol, 0.074 g | NC(=O)N | CH4N2O
solvent | sodium ethoxide | 1M, 1.2 mL | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[6-(4-Pyrazol-1-ylmethyl-phenoxy)-pyridin-3-yl]-1,7,9-triaza-spiro[4.5]decane-2,6,8,10-tetraone | 6 mg | N1(N=CC=C1)CC1=CC=C(OC2=CC=C(C=N2)N2C(CCC23C(NC(NC3=O)=O)=O)=O)C=C1 | C22H18N6O5
